US08124606B2
Compound 138: (S)-3-((4-(4-(pyrrolidine-1-carbonyl)phenyl)piperazin-1-yl)methyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one
In a 1 dram vial, (S)-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid (100 mg, 0.245 mmol) was suspended in DMF (Volume: 1.227 mL) then added pyrrolidine (0.024 mL, 0.295 mmol), HATU (140 mg, 0.368 mmol) and N-methylmorpholine (0.108 mL, 0.982 mmol). The rxn was stirred at RT overnight. The mixture was purified by prep HPLC-MS (acidic mode, 15-35%). The pH of the combined fractions was adjusted to pH=8-9 and extracted with EtOAc (3×30 ml), washed with brine, dried with MgSO4, filtered and concentrated to dryness. The residue was taken up with water/ACN (1:1), and concentrated in vacuo to provide the title compound as a fluffy white solid (29 mg, 26% yield). m.p.=121.3° C. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.73-1.87 (m, 4H) 1.87-2.01 (m, 3H) 2.14-2.21 (m, 1H) 2.43-2.49 (m, 4H) 3.15-3.23 (m, 4H) 3.35 (br. s., 2H) 3.37-3.49 (m, 5H) 3.54-3.65 (m, 1H) 3.95-4.04 (m, 1H) 6.91 (d, J=9.09 Hz, 2H) 6.99 (d, J=2.02 Hz, 1H) 7.42 (d, J=8.84 Hz, 2H) 7.62 (d, J=1.77 Hz, 1H) 10.44 (s, 1H). [M+H] calc'd for C26H32N6O2, 461; found, 461.

reactant | (S)-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid | 0.245 mmol, 100 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=CC=C(C(=O)O)C=C3)CCC2 | C22H25N5O3
reactant | pyrrolidine | 0.295 mmol, 0.024 mL | N1CCCC1 | C4H9N
reactant | HATU | 0.368 mmol, 140 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 0.982 mmol, 0.108 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.227 mL | CN(C)C=O | C3H7NO
product | (S)-3-((4-(4-(pyrrolidine-1-carbonyl)phenyl)piperazin-1-yl)methyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 29 mg, 26% yield | N1(CCCC1)C(=O)C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C26H32N6O2
